US04952580
A stirred solution of 0.4 gram (0.004 mole) of 4-amino-1,1,2-trifluoro-1-butene in 25 ml of diethyl ether was saturated with gaseous hydrochloric acid. The reaction mixture was concentrated under reduced pressure to give 0.4 gram of 4-amino-1,1,2-trifluoro-1-butene hydrochloride as a solid. The nmr spectrum was consistent with the proposed structure.

reactant | 4-amino-1,1,2-trifluoro-1-butene | 0.004 mole, 0.4 gram | NCCC(=C(F)F)F | C4H6F3N
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 4-amino-1,1,2-trifluoro-1-butene hydrochloride | 0.4 gram | Cl.NCCC(=C(F)F)F | InChI=1S/C4H6F3N.ClH/c5-3(1-2-8)4(6)7;/h1-2,8H2;1H
